US04001426
3-(3'-Chlorobenzoyl)-2-[4'-(2-hydroxy-3-isopropylaminopropoxy)phenyl]benzofuran
Treatment of 3-m-chlorobenzoyl-2-p-hydroxyphenylbenzofuran with epibromohydrin as described in Example 26 followed by reaction of the 3-(3'-chlorobenzoyl)-2-[4'-(2,3-epoxypropoxy)phenyl]benzofuran with isopropylamine as described in Example 25 gave the title compound.

reactant | 3-m-chlorobenzoyl-2-p-hydroxyphenylbenzofuran | ClC=1C=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=C(C=C3)O)C=CC1 | C21H13ClO3
reactant | epibromohydrin | C(Br)C1CO1 | C3H5BrO
reactant | 3-(3'-chlorobenzoyl)-2-[4'-(2,3-epoxypropoxy)phenyl]benzofuran | ClC=1C=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=C(C=C3)OCC3CO3)C=CC1 | C24H17ClO4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 3-(3'-Chlorobenzoyl)-2-[4'-(2-hydroxy-3-isopropylaminopropoxy)phenyl]benzofuran | ClC=1C=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=C(C=C3)OCC(CNC(C)C)O)C=CC1 | C27H26ClNO4
